US07417247B2
Formation of 1,2,3,4-Tetraphenyl-5-p-methacryloxyphenylcyclopenta-1,3-diene
9.25 g (0.02 mol) of 1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene were dissolved in 200 ml of dry toluene, 4.62 g (0.03 mol) of methacrylic anhydride were added and refluxing was effected for 12 h. The toluene was evaporated in a rotary evaporator and the residue was reprecipitated from acetone/ether (yield: 9.02 g (85%); elemental analysis: found: C, 88.35%, H, 5.61%. calculated: C, 88.27%, H, 5.70%).

reactant | 1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene | 0.02 mol, 9.25 g | C1(=CC=CC=C1)C1=C(C(=C(C1C1=CC=C(C=C1)O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H26O
reactant | methacrylic anhydride | 0.03 mol, 4.62 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-Tetraphenyl-5-p-methacryloxyphenylcyclopenta-1,3-diene | C1(=CC=CC=C1)C1=C(C(=C(C1C1=CC=C(C=C1)OC(C(=C)C)=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C39H30O2
